USRE029628
2-Amino-3-bromo-5-carboxy-N-(trans-4'-hydroxy-cyclohexyl)-benzylamine hydrochloride, m.p. 279° C (decomp.) was prepared from 2-amino-3-bromo-5-carbethoxy-N-(trans-4'-hydroxy-cyclohexyl)-benzylamine and 6 N hydrochloric acid analogous to Example 272.

reactant | 2-amino-3-bromo-5-carbethoxy-N-(trans-4'-hydroxy-cyclohexyl)-benzylamine | NC1=C(CN[C@@H]2CC[C@H](CC2)O)C=C(C=C1Br)C(=O)OCC | C16H23BrN2O3
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 2-Amino-3-bromo-5-carboxy-N-(trans-4'-hydroxy-cyclohexyl)-benzylamine hydrochloride | Cl.NC1=C(CN[C@@H]2CC[C@H](CC2)O)C=C(C=C1Br)C(=O)O | InChI=1S/C14H19BrN2O3.ClH/c15-12-6-8(14(19)20)5-9(13(12)16)7-17-10-1-3-11(18)4-2-10;/h5-6,10-11,17-18H,1-4,7,16H2,(H,19,20);1H/t10-,11-;
